US05532248
To a stirred solution of tris(3,4-dimethylphenyl)bismuthine (200 mg, 0.381 mmol) in CH2Cl2 (3 mL.) was added bis(trifluoroacetoxy)iodobenzene (165 mg, 0.383 mmol). One mL of this solution was transferred to a 10 mL flask. To this solution was added 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (100 mg, 0.128 mmol) and Cu(OAc)2 (catalytic). The mixture was stirred overnight. The reaction mixture was quenched with saturated aqueous NaHCO3 and extracted 4× with CH2Cl2. The organic extracts were combined and dried over anhydrous Na2SO4. The mixture was filtered and concentrated in vacuo. The products were isolated by radial chromatography on silica gel (eluted with 3.5% methanol/CH2Cl2) and then purified by preparative TLC on silica gel (eluted with 3:1 hexanes/acetone) to afford 24.3 mg of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(3'",4'"-dimethylphenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25 -dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone. (1H NMR and mass spectral analysis were consistent with the desired structure).

reactant | tris(3,4-dimethylphenyl)bismuthine | 0.381 mmol, 200 mg | CC=1C=C(C=CC1C)[Bi](C1=CC(=C(C=C1)C)C)C1=CC(=C(C=C1)C)C
reactant | bis(trifluoroacetoxy)iodobenzene | 0.383 mmol, 165 mg | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.128 mmol, 100 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(3'",4'"-dimethylphenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25 -dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 24.3 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC(=C(C=C2)C)C)OC)C)C)O)=O | C51H77NO12
